US05889132
59.1 g (0.20 mol) 3-methacryloyloxypropyltrimethoxy silane and some hydroquinone monomethyl ether (MEHQ) are placed in a sulphonation flask which is connected via a distillation bridge to a cracking apparatus. After flushing with argon, cyclopentadiene is fed into the reaction vessel, with simultaneous stirring and warming to 85 to 90° C. After 33 hours the reaction has finished and formed dicyclopentadiene is distilled off at 0.05 mbar. Following subsequent fractional distillation in a high vacuum, the norbornene silane (1) (bp: 98°-100° C./7.0 mPa) is obtained as a colourless liquid in 70% yield.

reactant | 3-methacryloyloxypropyltrimethoxy silane | 0.20 mol, 59.1 g | C(C(=C)C)(=O)OCCC[Si](OC)(OC)OC | C10H20O5Si
reactant | hydroquinone monomethyl ether | COC1=CC=C(O)C=C1 | C7H8O2
product | dicyclopentadiene | 70% yield | C1C=CC2C1C3CC2C=C3 | C10H12
